US08633175B2
To a mixture of 3-chloro-4-hydroxybenzamide (3.3 g, 0.019 mol) and pyridine (3.0 g, 0.038 mol) in dichloromethane (30 mL) at ice bath temperature was added dropwise trifluoromethanesulfonic anhydride (5.9 g, 0.021 mol). The mixture was allowed to come to ambient temperature overnight. The reaction mixture was washed (water, brine), dried by passing through a plug of sodium sulfate and concentrated in vacuo affording 4-(aminocarbonyl)-2-chlorophenyl trifluoromethane sulfonate as a pale yellow solid, used without further purification. LC/MS (method B) tR 2.48 min; m/z 304 (M+H).

reactant | 3-chloro-4-hydroxybenzamide | 0.019 mol, 3.3 g | ClC=1C=C(C(=O)N)C=CC1O | C7H6ClNO2
reactant | pyridine | 0.038 mol, 3.0 g | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.021 mol, 5.9 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 4-(aminocarbonyl)-2-chlorophenyl trifluoromethane sulfonate | FC(S(=O)(=O)OC1=C(C=C(C=C1)C(=O)N)Cl)(F)F | C8H5ClF3NO4S
